US07723360B2
1-(1-Benzyl-piperidin-4-yl)-2-ethyl-5-fluoro-1H-benzimidazole
N-[2-(1-Benzyl-piperidin-4-ylamino)-5-fluorophenyl]-propionamide (7 g) in glacial acetic acid (70 ml) was heated at reflux for 1 h. After cooling the residue was dissolved in ethyl acetate (100 ml) and water (50 ml) was then added. The mixture was made alkaline with K2CO3, and the organic layer separated, washed with water, then dried and concentrated in vacuo. The resulting oil was purified by flash chromatography (9:1 DCM:MeOH) to yield 6.4 g of the title compound.

reactant | N-[2-(1-Benzyl-piperidin-4-ylamino)-5-fluorophenyl]-propionamide | 7 g | C(C1=CC=CC=C1)N1CCC(CC1)NC1=C(C=C(C=C1)F)NC(CC)=O | C21H26FN3O
reactant | water | 50 ml | O | H2O
reactant | K2CO3 | C(=O)([O-])[O-].[K+].[K+]
solvent | acetic acid | 70 ml | C(C)(=O)O | C2H4O2
solvent | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
product | 1-(1-Benzyl-piperidin-4-yl)-2-ethyl-5-fluoro-1H-benzimidazole | 6.4 g | C(C1=CC=CC=C1)N1CCC(CC1)N1C(=NC2=C1C=CC(=C2)F)CC | C21H24FN3
